US05376681
2-Cyanomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran
2-Bromomethyl-2,4,6,7-tetramethyl-2,3dihydrobenzofuran (6.5 g, 18.6 mmol) was dissolved in dimethylsufoxide (30 ml). Sodium cyanide (1.43 g, 88 mmol) was added and the resulting mixture was stirred at 80° C. for 18 hours. The reaction mixture was diluted with water and the product was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (hexane-isopropyl ether, 2:1). The crude crystals obtained were recrystallized from methanol to obtain the desired compound (4.1 g, yield: 79.7%), m.p. 58°-59° C.

reactant | 2-Bromomethyl-2,4,6,7-tetramethyl-2,3dihydrobenzofuran | 18.6 mmol, 6.5 g | BrCC1(OC2=C(C1)C(=CC(=C2C)C)C)C | C13H17BrO
reactant | Sodium cyanide | 88 mmol, 1.43 g | [C-]#N.[Na+]
solvent | water | O | H2O
product | 2-Cyanomethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 4.1 g, yield: 79.7% | C(#N)CC1(OC2=C(C1)C(=CC(=C2C)C)C)C | C14H17NO
